US07592345B2
b) step 2: 2-(3,4-Dichloro-phenyl)-2-methyl-4-oxo-butyric acid methyl ester
A mixture of 6 g (19 mmol) 2-(3,4-dichloro-phenyl)-4,4-dimethoxy-2-methyl-butyric acid methyl ester and 28 mL 2N HCl aq. in 60 mL THF and 60 mL water was stirred at room temperature for 20 h. The mixture was extracted with diethyl ether. The combined organic phases were washed with sat. NaCl aq., dried with Na2SO4 and evaporated to dryness. The residue was subjected to column chromatography on silica eluting with a gradient formed from ethyl acetate and hexane. The product containing fractions were evaporated to yield 3 g (58%) of the title compound as light yellow oil.

reactant | 2-(3,4-dichloro-phenyl)-4,4-dimethoxy-2-methyl-butyric acid methyl ester | 19 mmol, 6 g | COC(C(CC(OC)OC)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C14H18Cl2O4
reactant | HCl | 2N, 28 mL | Cl | ClH
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | water | 60 mL | O | H2O
product | 2-(3,4-Dichloro-phenyl)-2-methyl-4-oxo-butyric acid methyl ester | 3 g, 58% | COC(C(CC=O)(C)C1=CC(=C(C=C1)Cl)Cl)=O | C12H12Cl2O3
